US04232037
Example 15. N-Ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl) pyrrolidine hydrochloride
Using the same method as for compound in Example 14, except of the addition of triethylamine, this compound was prepared from 8.4 g (0.032 mol) of 3-bromo-2,6-dimethoxybenzoic acid, 20 ml of thionyl chloride and 9.0 g (0.032 mol) of (+)-2-(aminomethyl)-1-ethylpyrrolidine d-tartrate. Yield: 7.5 g, m.p. 166°-68° C., [α]D20° =10.7° (0.5% in water).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-2,6-dimethoxybenzoic acid | 0.032 mol, 8.4 g | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (+)-2-(aminomethyl)-1-ethylpyrrolidine d-tartrate | 0.032 mol, 9.0 g | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.NCC1N(CCC1)CC
solvent | water | O | H2O
product | N-Ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl) pyrrolidine hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | InChI=1S/C16H23BrN2O3.ClH/c1-4-19-9-5-6-11(19)10-18-16(20)14-13(21-2)8-7-12(17)15(14)22-3;/h7-8,11H,4-6,9-10H2,1-3H3,(H,18,20);1H
